US07317125B2
Preparation of cyclohexane carboxylic acid N′-isopropyl-hydrazide
A solution of methyl-cyclohexane carboxylate (20 g, 140.65 mmol) and hydrazine monohydrate (35 ml, 703.25 mmol) in MeOH (100 ml) was refluxed overnight. The mixture was concentrated to dryness and the residue was partitioned between saturated aqueous sodium bicarbonate and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated (14.35 g, 75%). A portion of the resulting hydrazide 1 (2.6 g, 18.28 mmol) was dissolved in acetone (100 ml) and the solution was refluxed overnight. The solution was concentrated to dryness. The residue was dissolved in TFA (30 ml) and treated with triethylsilane (5.83 ml, 36.56 mmol) at 60° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between 1N NaOH and DCM. The organic layer was washed with brine, dried over sodium sulfate and concentrated under vacuum to afford the product as a white solid (2.0 g, 61%).

reactant | methyl-cyclohexane carboxylate | 140.65 mmol, 20 g | COC(=O)C1CCCCC1 | C8H14O2
reactant | hydrazine monohydrate | 703.25 mmol, 35 ml | O.NN
reactant | triethylsilane | 36.56 mmol, 5.83 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | MeOH | 100 ml | CO | CH4O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | cyclohexane carboxylic acid N′-isopropyl-hydrazide | 2.0 g, 61% | C(C)(C)NNC(=O)C1CCCCC1 | C10H20N2O
